Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Wellbutrin / sertraline / allopurinol / Uloric
 
Attending: ___.
 
Chief Complaint:
Acute hypoxia
 
Major Surgical or Invasive Procedure:
___ Bronchoscopy 

 
History of Present Illness:
Ms. ___ is a ___ y/o F with h/o myeloproliferative 
disorder/MDS overlap syndrome on ___ and hydrea with 
recent initiation of decitabine, HTN, HLD, DM, COPD, depression, 
massive splenomegaly and splenic infarct, confirmed ___ 
transferred to ___ on ___ from ___ for acute hypoxia 
after decitabine and concern for possible transformation to 
acute leukemia. 

Ms. ___ has been in her usual state of health with diagnosed 
myeloproliferative disorder and received a scheduled dose of 
decitabine on ___ and was noted to soon thereafter develop 
hypoxia as low as 78% per notes along with shortness of breath, 
though the patient herself denies any acute SOB or acute 
symptoms otherwise.  She was placed on oxygen which was 
increased up to 3L and managed at ___ where she had a CT 
chest which was negative for pulmonary embolism.  She was given 
Lasix IV 10mg with reported good UOP (per patient) and seemed to 
clinically improve. She was subsequently transferred to ___ 
for further evaluation. VS at OSH: 93-97% on 3L, afebrile, BP 
120s/40s-50s, RR ___.

Ms. ___ herself denies feeling any different today before or 
after her IV chemotherapy infusion, despite the series of 
clinical events which led to her admission.  She denies chest 
pain, chest discomfort, shortness of breath at rest, orthopnea, 
paroxysmal nocturnal dyspnea, lower extremity swelling, 
light-headedness, syncope, or palpitations.  She does endorse 
chronic shortness of breath with exertion upon walking 1 block 
which is as much as she can exert herself.  She also denies 
having fever or chills.  She has a chronic cough which is stable 
and regular night sweats which have been stable for at least a 
year or more.  She has had some ongoing low energy in the 
setting of her myeloproliferative disorder.
 
Past Medical History:
- ___: Her white blood cell count was 38,000, 
differential showed immature myeloid forms. There was mild 
basophilia and hypersegmented neutrophils. The remainder of her 
CBC was unremarkable. The CBC was repeated and the results are 
similar and an urgent referral to Hematology was placed.  
- ___: First hematology visit. Presentation 
initially appeared consistent with chronic phase CML. However, 
the BCR-ABL PCR and the JAK2 mutation analysis were negative.  
- ___: Bone marrow Bx which showed markedly 
hypercellualrl marrow for age with trilenage hematopoiesis with 
increased megas, 0% blasts, concerning for MPN. Cytogenetics 
showed a ___ female karyotype and the FISH MDS panel was 
negative for the common cytogenetic abnormalities observed  
within myelodysplastic syndrome. There was no FISH evidence of 
BCR-ABL gene rearrangement. Flow cytometry was performed, which 
showed a 1% subset of blasts, that expressed CD34, CD33, HLA-TR 
and lacked CD19, CD14, and CD56. Additional testing for SETBP1 
and CSF3R were negative, these are mutations sometimes seen with 
atypical CML and also chronic neutrophilic leukemia. As she was 
symptomatic, she was put on hydrea 500 mg daily and allopurinol.
- ___: Underwent eye surgery. The following day, she 
developed diarrhea and rash. 
- ___: Admitted to ___ and transferred to 
___
on the next day. The patient was in septic shock and admitted to
the MICU. Further workup showedpneumonia. During her
hospitalization, white blood cell count rose to greater than
100,000 and was felt to be consistent with a leukemoid reaction. 
In the hospital, she had a massive upper GI bleed and had a 
bleeding duodenal ulcer that was treated with laser coagulation. 
She was discharged to a rehab facility on ___. She 
started Jakafi at some point AFTER discharge.
- ___ through ___: She was readmitted to ___
with another massive GI bleed and the duodenal ulcer was found 
to be bleeding again. She was re-treated with thermal 
coagulation and endoclips and then had gastroepiploic 
embolization by interventional radiology. She is transfused 
multiple units of PRBCs. She aspirated and required intubation 
in the ICU and was treated with broad-spectrum antibiotics. 
___ was stopped during this admission.
- ___ by Dr ___ was not feeling well, dehydrated  
and weak. He changed hydrea to 500mg five times per week while 
holding ___.
- ___: Referred to Dr. ___. There was concern for 
transformation to acute leukemia and presence of tumor lysis was 
recommended patient be admitted for urgent bone marrow biopsy 
and possible induction chemotherapy. ___ had a long planned 
trip to ___ and declined admission.  
- ___: Repeat bone marrow bx by Dr. ___ dry tap no 
aspirate obtained. peripheral blasts 2%. BM core markedly 
hypercellular (90-100%) myeloid predominant c/w known 
myeloproliferative neoplasm. Normal myeloid maturation and no 
morphologic evidence of transformation. CD34 stain highlights 
rare scattered cells representing <5% cellularity.
- ___ through ___: Did well on hydrea monotherapy
- ___: WBC increased from 29 to 61 with 7% blasts. Sent to 
ED for CTA chest for elevated DDimer but negative. 
- ___: Repeat marrow overall unchanged, with 1% blasts and 
negative cytogenetics/FISH workup. Myeloid sequencing = SRSF2 
inframe insertion R94dup; CRLF2 exon 3 frameshift deletion 
F107fs; KRAS A146V; RUNX1 L161P; and CUX1 exon 12 splice  
acceptor loss. 
- ___: Seen by ___ team (Dr. ___, recommended HMA
- ___: Started C1D1 Vidaza

Myeloproliferative disorder  
Hypertension 
Diabetes mellitus type 2 
COPD 
Hypothyroidism 
Hypercholesterolemia 
Depression 
___ 
breast cancer s/p lumpectomy and adjuvant radiation
 
Social History:
___
Family History:
Mother died at ___ from cardiac disease. 
Father died at ___ from CAD, had h/o CVA at ___. 
Sister died of CAD in ___. 
No significant family history of malignancy.
 
Physical Exam:
==============================
ADMISSION PHYSICAL EXAMINATION
==============================
VS: Temp 98.0, BP 116/67, HR 91, RR 22, 95% on 3L 
GENERAL: elderly, pale woman lying in bed, mild tachypnea with 
slight increased work of breathing  
HEENT: JVP elevated to mid-neck at 70 degree incline 
CARDIAC: RRR, II systolic murmur best heard at left sternal 
border, no S3 or S4 appreciated 
LUNG: mild crackles at the bases and to the mid-lung field on 
the left side, no active wheezing 
ABD: Soft, non-tender, non-distended, normal bowel sounds, 
marked
splenomegaly 
EXT: Warm, well perfused, mild lower extremity edema around the 
ankles 
NEURO: A&O, good attention and linear thought, CN grossly 
intact, moving all extremities  
SKIN: No significant rashes
ACCESS: PIV 

==============================
DISCHARGE PHYSICAL EXAMINATION
==============================
T:97.4 BP:102/56 HR:82 RR:18 O2:97RA
GENERAL: Comfortable appearing woman lying in bed and speaking 
to me in no distress
HEENT: No jugular venous distension 
CARDIAC: S1/S2 regular with ___ systolic murmur best heard at 
LUSB, no rubs or S3/S4 
LUNG: Moderate tachypnea without use of accessory muscles, 
crackles at bases nearly resolved.  
ABD: Massive splenomegaly with improved pain to palpation from 
prior 
EXT: Warm, well perfused, trace edema at the ankles bilaterally 
NEURO: A&Ox3, good attention and linear thought, CN grossly 
intact, moving all extremities  
SKIN: No significant rashes
ACCESS: PIV 
 
Pertinent Results:
============================
ADMISSION LABORATORY STUDIES
============================
___ 10:36AM   WBC-142.4* RBC-2.67* HGB-9.0* HCT-29.6* 
MCV-111* MCH-33.7* MCHC-30.4* RDW-23.3* RDWSD-92.5*
___ 10:36AM   NEUTS-47 BANDS-7* LYMPHS-2* MONOS-20* EOS-3 
BASOS-2* ___ METAS-5* MYELOS-7* PROMYELO-1* BLASTS-6* NUC 
RBCS-2* AbsNeut-76.90* AbsLymp-2.85 AbsMono-28.48* AbsEos-4.27* 
AbsBaso-2.85*
___ 10:36AM   CALCIUM-8.7 PHOSPHATE-2.7 MAGNESIUM-1.7 URIC 
ACID-4.6
___ 10:36AM   ALT(SGPT)-<5 AST(SGOT)-29 LD(LDH)-844* ALK 
PHOS-67 TOT BILI-0.5
___ 10:36AM   UREA N-9 CREAT-1.0 SODIUM-140 POTASSIUM-4.1 
CHLORIDE-106 TOTAL CO2-25 ANION GAP-9*

==========================================
DISCHARGE AND PERTINENT LABORATORY STUDIES
==========================================
___ 06:15AM BLOOD WBC-5.5 RBC-2.24* Hgb-7.3* Hct-24.4* 
MCV-109* MCH-32.6* MCHC-29.9* RDW-21.2* RDWSD-82.1* Plt Ct-22*
___ 06:15AM BLOOD Neuts-48 Bands-3 Lymphs-15* Monos-9 
Eos-10* Baso-11* ___ Metas-2* Myelos-1* Blasts-1* 
AbsNeut-2.81 AbsLymp-0.83* AbsMono-0.50 AbsEos-0.55* 
AbsBaso-0.61*
___ 05:45AM BLOOD ___ PTT-30.2 ___
___ 06:15AM BLOOD Glucose-102* UreaN-25* Creat-0.9 Na-140 
K-4.5 Cl-106 HCO3-25 AnGap-9*
___ 06:15AM BLOOD ALT-8 AST-14 LD(LDH)-427* AlkPhos-55 
TotBili-0.5
___ 06:15AM BLOOD Calcium-8.5 Phos-3.8 Mg-1.9 UricAcd-4.2

===========================
REPORTS AND IMAGING STUDIES
===========================
___ CT CHEST WITHOUT CONTRAST
IMPRESSION:  
Worsening diffuse bilateral ground-glass opacification 
superimposed over 
interstitial edema the differential diagnosis includes pulmonary 
edema and a PCP ___. 
  
Stable small bilateral effusions left greater than right. 
  
Stable small left axillary lymph nodes and splenomegaly. 
  
Status post surgery in the right breast with stable postsurgical 
and post radiation changes to the right breast.  Stable small 
mediastinal lymph nodes. 

___ TRANSTHORACIC ECHOCARDIOGRAM 
The left atrial volume index is mildly increased. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thicknesses and cavity size are normal. Regional left 
ventricular wall motion is normal. Left ventricular systolic 
function is hyperdynamic (Quantitative (3D) LVEF = 79 %). The 
estimated cardiac index is high (>4.0L/min/m2). Right 
ventricular chamber size and free wall motion are normal. There 
are three aortic valve leaflets. The aortic valve leaflets are 
moderately thickened. There is no valvular aortic stenosis. The 
increased transaortic velocity is likely related to high cardiac 
output. Mild (1+) aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Trivial mitral regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. The 
end-diastolic pulmonic regurgitation velocity is increased 
suggesting pulmonary artery diastolic hypertension. There is a 
very small pericardial effusion. 

IMPRESSION: A left pleural effusion is present. Normal left 
ventricular wall thickness and cavity size with hyperdynamic 
regional/global systolic function. Mild aortic regurgitation. 
Mild tricuspid regurgitation. Moderate pulmonary artery systolic 
hypertension. Pulmonary artery diastolic hypertension. 

Compared with the prior study (images reviewed) of ___, the 
pulmonary artery pressure has increased. There is now pulmonary 
artery diastolic hypertension.  

============
MICROBIOLOGY
============
Respiratory Viral PCR Negative for: Adenovirus, Enterovirus, 
Human bocavirus, human coronavirus, human metapneumovirus, 
influenza A, influenza A H1N1-09, Influzena B, parainfluenza, 
respiratory syncytial virus. 

Bronchoalveolar lavage negative for PCP, acid fast smear, 
microorganisms on culture. Other results pending. 
 
Brief Hospital Course:
=================
SUMMARY STATEMENT
=================
Ms. ___ is a ___ y/o F with h/o myeloproliferative 
disorder/MDS overlap syndrome on ___ and hydrea with 
recent initiation of decitabine (two doses of C1), HTN, HLD, DM, 
COPD, depression, massive splenomegaly and splenic infarct, 
confirmed ___ transferred to ___ on ___ from ___ 
for acute hypoxia after receiving her second decitabine 
infusion.

#Hypoxia
Patient has background history of COPD not on home oxygen with 
saturations 89-94% on room air during recent hospitalization. 
Found to be 90-92% on presentation to clinic on ___ prior to 
her second dose of cycle 1 of decitabine. Oxygen saturation 
found to be 78% after 500cc fluid and decitabine infusion. 
Placed on nasal cannula at 3L. Given 20mg IV Lasix without 
improvement in oxygenation and CTA negative for PE but 
significant for worsening pleural effusion and compression 
atelectasis. TTE with moderate pulmonary HTN but good systolic 
function despite elevated BNP. Troponin negative. No evidence of 
infection. Pulmonary consulted and felt most likely driver is 
effusion and atelectasis on substrate of COPD. CT Scan without 
contrast on ___ showed ground glass opacities and evidence of 
either pulmonary edema versus possible PCP PNA, though edema 
felt to be more likely. Chemical injury, infection, microembolic 
disease, and leukostasis all thought to be less likely. 
Beta-D-glucan positive on ___, but PCP on bronchoscopy was 
negative. Bronchoscopy showed negative viral panel and culture 
with commensal flora on culture. 

She underwent daily diuresis with 20mg IV Lasix with good urine 
output. She was also encouraged to frequently use incentive 
spirometer. On ___ her ambulatory oxygen saturation was 92-95% 
and her oxygen was discontinued. Presumed cause of her hypoxia 
is pulmonary edema and atelectasis. Although a TTE showed normal 
systolic function, it is possible that she has diastolic 
dysfunction that contributed to her volume overload. 

#Myeloproliferative disorder/MDS: 
#Elevated uric aicd
#Massive splenomegaly with splenic infarct
Presented on day 2 of cycle 1 of decitabine. Previously on 
___ and currently on hydrea at alternating doses of 
500mg/1000mg. Had bone marrow biopsy during recent admission 
showed known MPN with myelofibrosis with increased blasts of 7% 
(myeloid sequencing panel has shown mutations associated with 
MPN and MDS). She received three days of 2g of hydrea followed 
by two days of 1g of hydrea and her white blood count decresed 
from over 90 to 5.5. Hydrea was then discontinued in order to 
prevent caused significant cytopenia. 

She also has recently chronically high uric acid and received 
rasburicase during last admission due to allopurinol and 
fubuxostat allergies. She received rasburicase twice during this 
admission for a uric acid greater than 10. 

Her splenic pain from massive splenomegaly and likely splenic 
infarcts significantly worsened early in the admission requiring 
q6 oxycodone. However it spontaneously improved and by discharge 
she did not need any pain medication. She had her radiation 
mapping completed while hospitalized and will start radiation 
therapy on ___ at ___. Completion of her decitabine 
course will likely take place after radiation therapy. 

===================
TRANSITIONAL ISSUES
===================
[ ] Consider referral to cardiology for possible diastolic heart 
failure - patient strongly prefers to go ___ and not 
___ if possible 
[ ] Needs close monitoring of blood counts given her swing to 
leukocytosis >90 down to a WBC of 5.5 on discharge. 
[ ] Needs close monitoring of uric acid level given chronic uric 
acid elevation and needing rasburicase twice this admission 
[ ] Some bronchoscopy studies still pending at the time of 
discharge. 

Discharge WBC: 5.5
Discharge PLT: 22
Discharge HGB: 7.3 

- New Meds: Oxycodone 5mg, 8 tablets prescribed total. 
Furosemide 20mg daily. 
- Stopped/Held Meds: Hydrea held. 

- Discharge weight: ___: 70.26kg (154.9 lb)
- Code Status: DNR/DNI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 5 mg PO DAILY 
2. Levothyroxine Sodium 88 mcg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Pantoprazole 40 mg PO Q24H 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Vitamin D ___ UNIT PO DAILY 
7. MetFORMIN (Glucophage) 850 mg PO DAILY 
8. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
9. Simvastatin 5 mg PO 3X/WEEK (___) 
10. Hydroxyurea 500 mg PO EVERY OTHER DAY 
11. Hydroxyurea 1000 mg PO EVERY OTHER DAY 

 
Discharge Medications:
1.  Furosemide 20 mg PO DAILY Duration: 1 Dose 
RX *furosemide 20 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
Do NOT operate a car while taking this medication. Never take 
more than prescribed amount. 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every 8 hours Disp #*8 
Tablet Refills:*0 
3.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
4.  Escitalopram Oxalate 5 mg PO DAILY  
5.  Levothyroxine Sodium 88 mcg PO DAILY  
6.  MetFORMIN (Glucophage) 850 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  
8.  Pantoprazole 40 mg PO Q24H  
9.  Simvastatin 5 mg PO 3X/WEEK (___)  
10.  Tiotropium Bromide 1 CAP IH DAILY  
11.  Vitamin D ___ UNIT PO DAILY  
12. HELD- Hydroxyurea 500 mg PO EVERY OTHER DAY  This medication 
was held. Do not restart Hydroxyurea until your doctor tells you 
to. 
13. HELD- Hydroxyurea 1000 mg PO EVERY OTHER DAY  This 
medication was held. Do not restart Hydroxyurea until your 
doctor tells you to. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSIS
=================
Acute on chronic hypoxia 

===================
SECONDARY DIAGNOSES
===================
Hypervolemia 
Myeloproliferative disorder/myelodysplastic syndrome overlap

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you while you were admitted to ___ 
___. 

WHY WERE YOU ADMITTED TO THE HOSPITAL?
- You had very low oxygen levels in your blood (hypoxia). 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- We did a lot of tests to look for infection or other causes of 
low oxygen levels. 
- We gave you medications (Lasix) to get extra fluid off of your 
body. Eventually you stopped needing any oxygen. 
- We gave you higher doses of your hydrea medication and your 
blood counts came down significantly. 
- You had a mapping procedure to prepare you for radiation to 
the spleen. 

WHAT SHOULD YOU DO WHEN YOU GO HOME?
- Carefully review the attached medication list as we may have 
made changes to your medications. 
- Do not take oxycodone and operate a car. Don't ever take more 
than the prescribed amount. 

Sincerely, 
Your ___ Care Team 
 
Followup Instructions:
___